US07977477B2
A mixture of 5-methyl-3-phenylisoxazole-4-carboxylic acid (57 mg, 0.28 mmol), 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.25 mmol), EDC (58 mg, 0.30 mmol) and HOBt (41 mg, 0.30 mmol) in DMSO (2 ml) was stirred at ambient temperature for 24 h. The reaction mixture was partitioned between EtOAc and water and the organic portion dried (MgSO4), filtered and reduced in vacuo. The residue was purified by flash column chromatography [SiO2, EtOAc-petrol (1:2, 1:1, 2:1)] affording 5-methyl-3-phenyl-isoxazole-4-carboxylic acid [3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-amide as a cream solid (15 mg, 16%). (LC/MS: Rt 3.73, [M+H]+ 385.14).

reactant | 5-methyl-3-phenylisoxazole-4-carboxylic acid | 0.28 mmol, 57 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.25 mmol, 50 mg | N1C(=NC2=C1C=CC=C2)C2=NNC=C2N | C10H9N5
reactant | EDC | 0.30 mmol, 58 mg
reactant | HOBt | 0.30 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid [3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-amide | 15 mg, 16% | N1C(=NC2=C1C=CC=C2)C2=NNC=C2NC(=O)C=2C(=NOC2C)C2=CC=CC=C2 | C21H16N6O2
